### ISSUE TITLE
`set_option` Not Working in Tactic Mode

### ISSUE THREAD

**Issue by RexWzh** [leanprover-community/repl#69]
When using the Lean REPL, `set_option maxHeartbeats` appears to have no effect in tactic mode, while it works correctly in command mode.

## Minimal Working Example

Works in Command Mode:
```bash
{"cmd": "import Mathlib\n\nset_option maxHeartbeats 0\nset_option maxRecDepth 1000000\n"}

{"cmd": "theorem mathd_numbertheory_314 (r n : ℕ) (h₀ : r = 1342 % 13) (h₁ : 0 < n) (h₂ : 1342 ∣ n)\n    (h₃ : n % 13 < r) : 6710 ≤ n := by\ncontrapose! h₃\ninterval_cases n <;> simp_all (config := {decide := true})", "env": 0}
```

Same proof in tactic mode fails:

```bash
{"cmd": "import Mathlib\n\nset_option maxHeartbeats 0\nset_option maxRecDepth 1000000\n"}

{"cmd": "theorem mathd_numbertheory_314 (r n : ℕ) (h₀ : r = 1342 % 13) (h₁ : 0 < n) (h₂ : 1342 ∣ n)\n    (h₃ : n % 13 < r) : 6710 ≤ n := by sorry", "env": 0}

{"tactic": "contrapose! h₃", "proofState": 0}

{"tactic": "interval_cases n <;> simp_all (config := {decide := true})", "proofState": 1}
```

Error message:

```
{"message": "Lean error:\n(deterministic) timeout at `elaborator`, maximum number of heartbeats (200000) has been reached\nUse `set_option maxHeartbeats <num>` to set the limit.(invalid MessageData.lazy, missing context)"}
```

## What I've Tried

1.  Verify in the lean:
   ```lean
   import Mathlib
   set_option maxHeartbeats 0
   set_option maxRecDepth 1000000
   theorem mathd_numbertheory_314 (r n : ℕ) (h₀ : r = 1342 % 13) (h₁ : 0 < n) (h₂ : 1342 ∣ n)
       (h₃ : n % 13 < r) : 6710 ≤ n := by
   contrapose! h₃
   interval_cases n <;> simp_all (config := {decide := true})
   ```
   ```bash
   lake env lean mathd_numbertheory_314.lean
   ```

2. Test `set_option` in command mode:
   - remove `set_option maxHeartbeats 0`: raise the same error with `heartbeats (200000)`
   - lower the number to `set_option maxHeartbeats 100000`: raise error with `heartbeats (100000)`

4. Test `set_option` in tactic mode:
   - remove `set_option maxHeartbeats 0`: raise the same error with `heartbeats (200000)`
   - lower the number `set_option maxHeartbeats 100000`: raise **the same error** with `heartbeats (200000)`
   - set `set_option maxHeartbeats 0` and `set_option maxRecDepth 300000`: raise the same error with `heartbeats (200000)`
   - specify "env" in the tactic mode(the same error)

**Comment by RexWzh** [comment]
see https://github.com/leanprover-community/repl/issues/44
